US07449477B2
4-oxiranylmethyl benzonitrile
Add a solution of 3-chloro-peroxybenzoic acid (5.44 g, 40.92 mmol), in 25 ml of dichloromethane to a solution of 4-allyl-benzonitrile (2.66 g, 18.60 mmol) in 50 ml of dichloromethane. stir at room temperature overnight. Quench with NaHCO3 (15 ml) saturated solution and wash the organic layer three times with NaHCO3 solution and dry over magnesium sulfate. Evaporate in vacuo, and purify by flash chromatography in Hexane-AcOEt (7:1, 1% Et3N) affording 1.44 g (49%) of the title compound. MS m/z 160 (M+H)+.

reactant | 3-chloro-peroxybenzoic acid | 40.92 mmol, 5.44 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 4-allyl-benzonitrile | 18.60 mmol, 2.66 g | C(C=C)C1=CC=C(C#N)C=C1 | C10H9N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-oxiranylmethyl benzonitrile | 1.44 g, 49% | O1C(C1)CC1=CC=C(C#N)C=C1 | C10H9NO
